US07041837B2
Preparation of 1-(2-hydroxyethyl)-5-ethyl-2phenyl-1H-pyrrole (Compound No. 17)
A mixture of 1-phenyl-hexane-1,4-dione (5 g), ethanol amine (1.6 g) and pivalic acid (2.15 g) in a solvent mixture containing n-heptane:tetrahydrofuran:toluene (4:1:1, 50 mL) was refluxed with stirring at 110–120° C. Water formed during the reaction was removed azeotropically during 3 to 4 hrs. The reaction mixture was cooled and the solvent was removed. The residue obtained was dissolved in dichloromethane (50 mL), washed with saturated sodium bicarbonate solution (50 mL), water (50 mL), and then with brine (50 mL), dried (Na2SO4) and the solvent was evaporated. The crude compound obtained as an oily mass. The crude substance was used in the next step without purification.

reactant | 1-phenyl-hexane-1,4-dione | 5 g | C1(=CC=CC=C1)C(CCC(CC)=O)=O | C12H14O2
reactant | ethanol amine | 1.6 g | C(O)CN | C2H7NO
reactant | pivalic acid | 2.15 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | n-heptane tetrahydrofuran toluene | 50 mL | CCCCCCC.O1CCCC1.C1(=CC=CC=C1)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 1-(2-hydroxyethyl)-5-ethyl-2phenyl-1H-pyrrole | OCCN1C(=CC=C1CC)C1=CC=CC=C1 | C14H17NO
